US07700655B2
(2) 5-Chloro-2-hydroxy-N-{4-[3,5-bis(trifluoromethyl)phenyl]thiazol-2-yl}benzamide (Compound No. 395)
A mixture of 5-chlorosalicylic acid (172.6 mg, 1 mmol), 2-amino-4-[3,5-bis(trifluoromethyl)phenyl]thiazole (312.2 mg, 1 mmol), phosphorus trichloride (44 μL, 0.5 mmol) and monochlorobenzene (5 mL) was refluxed for 4 hours. After the reaction mixture was cooled to room temperature, it was poured into water and extracted with ethyl acetate. After the ethyl acetate layer was washed with brine, dried over anhydrous sodium sulfate, the residue obtained by evaporation of the solvent under reduced pressure was purified by column chromatography on silica gel (n-hexane:ethyl acetate=3:1→2:1) to give the title compound (109.8 mg, 23.5%) as a pale yellow white powder.

reactant | 5-chlorosalicylic acid | 1 mmol, 172.6 mg | ClC1=CC=C(C(C(=O)O)=C1)O | C7H5ClO3
reactant | 2-amino-4-[3,5-bis(trifluoromethyl)phenyl]thiazole | 1 mmol, 312.2 mg | NC=1SC=C(N1)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C11H6F6N2S
reactant | phosphorus trichloride | 0.5 mmol, 44 μL | P(Cl)(Cl)Cl | Cl3P
reactant | monochlorobenzene | 5 mL | ClC1=CC=CC=C1 | C6H5Cl
solvent | water | O | H2O
product | 5-Chloro-2-hydroxy-N-{4-[3,5-bis(trifluoromethyl)phenyl]thiazol-2-yl}benzamide | 109.8 mg, 23.5% | ClC=1C=CC(=C(C(=O)NC=2SC=C(N2)C2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C1)O | C18H9ClF6N2O2S
